US07354920B2
a) 1-(4-Benzyl-morpholin-2-yl)-2-(5-fluoro-2-methoxy-phenyl)-1-phenyl-ethanol
The procedure for the synthesis of example 1a, 1-(4-Benzyl-morpholin-2-yl)-2-(2-methoxy-phenyl)-1-phenyl-ethanol, was followed using 2-chloromethyl-4-fluoro-1-methoxy-benzene (synthesized as described above) as starting material making non-critical variations, to yield the title compound which was taken without further purification in the next step. LCMS (6 minutes method) [M+H]+=422 @ Rt 2.85 min. major peak.

reactant | 1-(4-Benzyl-morpholin-2-yl)-2-(2-methoxy-phenyl)-1-phenyl-ethanol | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1)OC)(O)C1=CC=CC=C1 | C26H29NO3
reactant | 2-chloromethyl-4-fluoro-1-methoxy-benzene | ClCC1=C(C=CC(=C1)F)OC | C8H8ClFO
product | 1-(4-Benzyl-morpholin-2-yl)-2-(5-fluoro-2-methoxy-phenyl)-1-phenyl-ethanol | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC(=C1)F)OC)(O)C1=CC=CC=C1 | C26H28FNO3
